US04711890
N-methyl-N-(1-methylpropyl)-2-(2-chlorophenyl)-quinoline-4-carboxamide
The procedure of Example 3 is followed using 2-(2-chlorophenyl)-quinoline-4-carboxylic acid (5.7 g), thionyl chloride (15 ml) and N-methylbut-2-ylamine (15 ml) as the starting materials.

reactant | 2-(2-chlorophenyl)-quinoline-4-carboxylic acid | 5.7 g | ClC1=C(C=CC=C1)C1=NC2=CC=CC=C2C(=C1)C(=O)O | C16H10ClNO2
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylbut-2-ylamine | 15 ml | CNC(C)CC | C5H13N
product | N-methyl-N-(1-methylpropyl)-2-(2-chlorophenyl)-quinoline-4-carboxamide | CN(C(=O)C1=CC(=NC2=CC=CC=C12)C1=C(C=CC=C1)Cl)C(CC)C | C21H21ClN2O
